US07166617B2
a) tert-Butyl 4-aminomethylpiperidine-1-carboxylate hydrochloride
By using 4-aminomethylpiperidine 5.71 g as a starting material, tert-butyl 4-aminomethylpiperidine-1-carboxylate was prepared according to the method described in Synthetic Commun., 22(16), 2357–2360 (1992). The resulting compound was dissolved in 80 ml of ethyl acetate, and the solution was added with 4N hydrogen chloride-ethyl acetate and stirred. The precipitated solids were collected by filtration to obtain the title compound (10.27 g, yield: 82%).

reactant | 4-aminomethylpiperidine | 5.71 g | NCC1CCNCC1 | C6H14N2
reactant | tert-butyl 4-aminomethylpiperidine-1-carboxylate | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | hydrogen chloride-ethyl acetate | 4N | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-aminomethylpiperidine-1-carboxylate hydrochloride | 10.27 g, yield: 82% | Cl.NCC1CCN(CC1)C(=O)OC(C)(C)C | InChI=1S/C11H22N2O2.ClH/c1-11(2,3)15-10(14)13-6-4-9(8-12)5-7-13;/h9H,4-8,12H2,1-3H3;1H
